US06822074B1
2.3 g of Boc-Asp(OBzl)-DPhe-NMeVal-Arg(Pbf)-Gly-OtBu are dissolved in 23 ml of 95% formic acid for the removal of the terminal protective groups and concentrated in vacuo after 30 min. The product is triturated with ether, filtered off and dried in vacuo. H-Asp(OBzl)-DPhe-NMeVal-Arg(Pbf)-Gay-OHxHCOOH is obtained in a yield of 95%.

reactant | Boc-Asp(OBzl)-DPhe-NMeVal-Arg(Pbf)-Gly-OtBu | 2.3 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)NCC(=O)OC(C)(C)C)C)C(=O)OC(C)(C)C | C56H80N8O13S
reactant | formic acid | 23 ml | C(=O)O | CH2O2
product | H-Asp(OBzl)-DPhe-NMeVal-Arg(Pbf) | yield of 95% | N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)O)C | C45H61N7O10S
